US08067408B2
N-{[6-Cyano-3′-(hexahydro-1H-1,4-diazepin-1-ylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
N-[(6-Cyano-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (108 mg, 0.000161 mol) in DCM (4 mL) and 1,1-dimethylethyl hexahydro-1H-1,4-diazepine-1-carboxylate (47 mg, 0.00023 mol) were mixed with sodium triacetoxyborohydride (68.3 mg, 0.00032 mol) and AcOH (11.6 mg, 11 μL). This solution was stirred overnight at room temperature. LC-MS showed that the reaction was complete. The reaction was quenched with sat. aq. NaHCO3, then extracted with DCM (2×). Combined extracts were washed with sat. aq. NaCl, dried (Na2SO4) and concentrated to a glassy foam (238.7 mg). The glassy foam was taken up in DCM (10 mL) containing 25% TFA and allowed to stand at room temperature for 3 h. LC-MS showed the reaction to be complete. Solvent was stripped off. Purification was carried out on Gilson instrument with acetonitrile-water (0.1% TFA) gradient; C18-RP column. Fractions containing the clean desired product were combined; diluted with EtOAc; washed with sat. aq. NaHCO3; and the aq. phase was back-extracted with EtOAc. Combined organic layers were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. It was taken up in a small amount of DCM and transferred to a vial and pumped down to afford the title compound as a chalky solid [73 mg (60%)]. LC-MS m/z 754.3 (M+H)+.

reactant | N-[(6-Cyano-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.000161 mol, 108 mg | C(#N)C1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C39H39N7O4
reactant | 1,1-dimethylethyl hexahydro-1H-1,4-diazepine-1-carboxylate | 0.00023 mol, 47 mg | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium triacetoxyborohydride | 0.00032 mol, 68.3 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 11 μL, 11.6 mg | CC(=O)O | C2H4O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-{[6-Cyano-3′-(hexahydro-1H-1,4-diazepin-1-ylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 73 mg, 60% | C(#N)C1=CC=C(C=C1C1=CC(=CC=C1)CN1CCNCCC1)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C44H51N9O3
